US05861517
1-Methyl-3-(2-isopropylphenyl)-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 1 using 14.2 g of 2-isopropylphenyl-isothiocyanate, 12.29 g of sarcosine ethyl ester hydrochloride, 16.0 g of triethyl amine, and 200 mL of chloroform. Crystallization from diethyl ether afforded the title compound (15.9 g) as a peach solid, m.p. 129°-131° C. Anal. Calcd. for C13H16N2OS: C, 62.87; H, 6.49; N, 11.28. Found: C, 62.89; H, 6.38; N, 11.28. Mass spectrum (EI, M.+) m/z 248.

reactant | 2-isopropylphenyl-isothiocyanate | 14.2 g | C(C)(C)C1=C(C=CC=C1)N=C=S | C10H11NS
reactant | sarcosine ethyl ester hydrochloride | 12.29 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 16.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Methyl-3-(2-isopropylphenyl)-2-thioxo-imidazolidin-4-one | 15.9 g | CN1C(N(C(C1)=O)C1=C(C=CC=C1)C(C)C)=S | C13H16N2OS
